US04156016
A solution of 4.08 g. (0.044 mol) of aniline in 18 ml. of concentrated hydrochloric acid and 50 ml. of water was maintained below 5° while a solution of 3.00 g. (0.043 mol) of sodium nitrite in 10 ml. of water was added. This solution was then added to a mixture of 8.30 g. (0.041 mol) of α-cyanobenzenepropanoic acid ethyl ester, 50 ml. of ethanol, 100 ml. of water, and 18 ml. of 50% potassium hydroxide solution maintained below 0°. After stirring for an additional 20 minutes the reaction was diluted with water and shaken with ether. Some insoluble solid was removed by filtration and the ether layer was concentrated. The residue was heated on the steam bath for 4 hours with 60 ml. of acetic acid and 60 ml. of concentrated hydrochloric acid. The cooled reaction was diluted with water and extracted with dichloromethane. The extracts were dried, filtered over some silica gel and concentrated. Recrystallization of the residue from dichloromethane-hexane gave 3-phenylindole-2-carbonitrile as tan crystals, m.p. 137°-142°.

reactant | aniline | 0.044 mol | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.043 mol | N(=O)[O-].[Na+]
reactant | α-cyanobenzenepropanoic acid ethyl ester | 0.041 mol | C(C)OC(C(CC1=CC=CC=C1)C#N)=O | C12H13NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 3-phenylindole-2-carbonitrile | C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)C#N | C15H10N2
